US06130239
Di-tert-butyl dicarbonate (2.27 g, 10.4 mmol) in dichloromethane (10 mL) was added dropwise to a solution of N-methylpropargylamine (0.72 g, 10.4 mmol) in dichloromethane (25 mL) at room temperature with magnetic stirring. After 1 h, reaction mixture was diluted with dichloromethane and washed with aqueous 1N hydrochloric acid (30 mL) and saturated aqueous sodium bicarbonate solution (30 mL). Aqueous layers were washed with dichloromethane (50 mL). The dichloromethane solutions were combined, dried, (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (Biotage 40S, EtOAc - hexanes V/V 1:9 as solvent) to give N-Boc-N-methylpropargyl amine. (Yield 1.54 g, 87.4%).

reactant | Di-tert-butyl dicarbonate | 10.4 mmol, 2.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methylpropargylamine | 10.4 mmol, 0.72 g | CNCC#C | C4H7N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-Boc-N-methylpropargyl amine | C(=O)(OC(C)(C)C)N(C)CC#C | C9H15NO2
